*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-1N9_freq port1 port2 PARAMS: Cpar=0.095pF Ind=1.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.96
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000506
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7966.63384
.ends 0403HQ-1N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-1N9_imp port1 port2 PARAMS: Cpar=0.095pF Ind=1.9nH
X1 port1 port2 Model1D PARAMS:
+ R1=1.96
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000506
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7966.63384
.ends 0403HQ-1N9_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-2N1
* Inductance = 2.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-2N1_freq port1 port2 PARAMS: Cpar=0.078pF Ind=2.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.5
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000646
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12126.0457
.ends 0403HQ-2N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-2N1
* Inductance = 2.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-2N1_imp port1 port2 PARAMS: Cpar=0.078pF Ind=2.1nH
X1 port1 port2 Model1D PARAMS:
+ R1=1.5
+ R2=0.008
+ C= {Cpar}
+ K1=0.00000646
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12126.0457
.ends 0403HQ-2N1_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-3N4_freq port1 port2 PARAMS: Cpar=0.08pF Ind=3.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000824
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6244.02872
.ends 0403HQ-3N4_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-3N4_imp port1 port2 PARAMS: Cpar=0.08pF Ind=3.4nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.02
+ C= {Cpar}
+ K1=0.00000824
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6244.02872
.ends 0403HQ-3N4_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N7
* Inductance = 3.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-3N7_freq port1 port2 PARAMS: Cpar=0.085pF Ind=3.7nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.01
+ C= {Cpar}
+ K1=0.00000954
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6307.8501
.ends 0403HQ-3N7_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-3N7
* Inductance = 3.7nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-3N7_imp port1 port2 PARAMS: Cpar=0.085pF Ind=3.7nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.01
+ C= {Cpar}
+ K1=0.00000954
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6307.8501
.ends 0403HQ-3N7_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-5N5
* Inductance = 5.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-5N5_freq port1 port2 PARAMS: Cpar=0.062pF Ind=5.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.16
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6769.20105
.ends 0403HQ-5N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-5N5
* Inductance = 5.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-5N5_imp port1 port2 PARAMS: Cpar=0.062pF Ind=5.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.16
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000103
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6769.20105
.ends 0403HQ-5N5_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-6N6
* Inductance = 6.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-6N6_freq port1 port2 PARAMS: Cpar=0.072pF Ind=6.6nH
X1 port1 port2 Model2A PARAMS:
+ R1=6.77
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11622.2127
.ends 0403HQ-6N6_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-6N6
* Inductance = 6.6nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-6N6_imp port1 port2 PARAMS: Cpar=0.072pF Ind=6.6nH
X1 port1 port2 Model1D PARAMS:
+ R1=6.77
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11622.2127
.ends 0403HQ-6N6_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-8N2_freq port1 port2 PARAMS: Cpar=0.068pF Ind=8.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=7.11
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000167
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14221.8652
.ends 0403HQ-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-8N2_imp port1 port2 PARAMS: Cpar=0.068pF Ind=8.2nH
X1 port1 port2 Model1D PARAMS:
+ R1=7.11
+ R2=0.185
+ C= {Cpar}
+ K1=0.0000167
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14221.8652
.ends 0403HQ-8N2_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-9N0_freq port1 port2 PARAMS: Cpar=0.06pF Ind=9nH
X1 port1 port2 Model2A PARAMS:
+ R1=9.07
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000191
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14087.7573
.ends 0403HQ-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-9N0
* Inductance = 9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-9N0_imp port1 port2 PARAMS: Cpar=0.06pF Ind=9nH
X1 port1 port2 Model1D PARAMS:
+ R1=9.07
+ R2=0.176
+ C= {Cpar}
+ K1=0.0000191
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14087.7573
.ends 0403HQ-9N0_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-12N_freq port1 port2 PARAMS: Cpar=0.06pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.34
+ R2=0.35
+ C= {Cpar}
+ K1=0.0000199
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14422.8255
.ends 0403HQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-12N_imp port1 port2 PARAMS: Cpar=0.06pF Ind=12nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.34
+ R2=0.35
+ C= {Cpar}
+ K1=0.0000199
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14422.8255
.ends 0403HQ-12N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-15N_freq port1 port2 PARAMS: Cpar=0.049pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=12.76
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000315
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20180.6261
.ends 0403HQ-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-15N
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-15N_imp port1 port2 PARAMS: Cpar=0.049pF Ind=15nH
X1 port1 port2 Model1D PARAMS:
+ R1=12.76
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000315
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20180.6261
.ends 0403HQ-15N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0403HQ-18N_freq port1 port2 PARAMS: Cpar=0.053pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.02
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000383
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24670.1682
.ends 0403HQ-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0403HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0403HQ-18N_imp port1 port2 PARAMS: Cpar=0.053pF Ind=18nH
X1 port1 port2 Model1D PARAMS:
+ R1=11.02
+ R2=0.273
+ C= {Cpar}
+ K1=0.0000383
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24670.1682
.ends 0403HQ-18N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
